US04229365
1,500 parts of 3-chloro-4-fluoronitrobenzene and 1,000 parts of potassium fluoride are heated in 1,500 parts of tetramethylenesulfone for 16 hours at 230° C. The solution is cooled to 110° C. and filtered, the solid residue is washed with 500 parts of methylene chloride and the filtrates are combined and distilled. 139 parts (10.3% of theory) of 3,4-difluoronitrobenzene of boiling point 54° C./1 mbar are obtained.

reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | potassium fluoride | [F-].[K+]
reactant | tetramethylenesulfone | C1CCCS1(=O)=O | C4H8O2S
product | 3,4-difluoronitrobenzene | 10.3% | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
